US07456164B2
4-Hydroxypiperidine (2.08 g, 21.2 mmol), K2CO3 (5.86 g, 2 eq.), cylopentylbromide (11.51 g, 77.6 mmol, 3.7 eq.) and MeOH (20.8 ml) were refluxed together overnight. The reaction was allowed to cool to room temperature and quenched with 2M HCl solution (40 ml) and extracted with TBME (40 ml). The aqueous phase was basified to pH 14 with a 2M NaOH solution and extracted with DCM (4×50 ml). The combined organic extracts were dried over MgSO4, filtered, washed with DCM and concentrated in vacuo to give 1-cyclopentyl-4-hydroxypiperidine (2.55 g, 71%) as a pale yellow oil.

reactant | 4-Hydroxypiperidine | 21.2 mmol, 2.08 g | OC1CCNCC1 | C5H11NO
reactant | K2CO3 | 5.86 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | cylopentylbromide | 77.6 mmol, 11.51 g, 3.7 eq. | C1(CCCC1)Br | C5H9Br
solvent | MeOH | 20.8 ml | CO | CH4O
product | 1-cyclopentyl-4-hydroxypiperidine | 2.55 g, 71% | C1(CCCC1)N1CCC(CC1)O | C10H19NO
